US04939127
8-[2-(2-Methoxyethoxy)ethoxy]-1-octanol
To 564.3 ml of 1M diborane in tetrahydrofuran was added, at 0° C. under argon with stirring, 79.16 g of 2-methyl-2-butene. After stirring for 1/2 hour, 65 g of 8-[2-(2-methoxyethoxy]-2-octene was added. This mixture was stirred one hour at room temperature, then 700 ml of 1M diborane in tetrahydrofuran was added over a period of 1.5 hours. The mixture was then stirred 2 hours, then water was added and about 2/3 of the tetrahydrofuran removed. The remainder was stirred in an ice bath as 150 ml of 3N sodium hydroxide was added, followed by the slow addition of 150 ml of 30% hydrogen peroxide. After stirring 1/2 hour the mixture was extracted with ether. The ether extract was washed in succession with saturated aqueous sodium chloride, saturated aqueous sodium bisulfite, saturated aqueous sodium chloride, then dried and the solvent removed. The residue was distilled on a Kugelrohr apparatus. The fraction boiling at 90°-110° C., 0.2 mm was discarded. The fraction boiling at 160°-180° C., 0.2 mm was collected giving 41.3 g of the desired compound as a clear liquid.

reactant | diborane | 1M, 564.3 ml | B#B | B2
reactant | 2-methyl-2-butene | 79.16 g | CC(C)=CC | C5H10
reactant | 2-(2-methoxyethoxy]-2-octene | COCCOC(C)=CCCCCC | C11H22O2
reactant | diborane | 1M, 700 ml | B#B | B2
reactant | water | O | H2O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-[2-(2-Methoxyethoxy)ethoxy]-1-octanol | 41.3 g | COCCOCCOCCCCCCCCO | C13H28O4
